US09421269B2
200 g ginsenoside Rb1 with high purity is taken into reaction vessel, 500 ml of purified water is added, and alpha-galactosidase is added, it is decomposed by enzymolysis at 30° C. for 4˜44 hours (more preferably 8˜12 hours, extracted with 200 ml n-butanol for three times, and the n-butanol is combined, concentrated under reduced pressure and dried to obtain 136 g ginsenoside F2.

reactant | ginsenoside Rb1 | 200 g | CC(=CCC[C@@](C)([C@H]1CC[C@@]2([C@@H]1[C@@H](C[C@H]3[C@]2(CC[C@@H]4[C@@]3(CC[C@@H](C4(C)C)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O)C)C)O)C)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO[C@H]8[C@@H]([C@H]([C@@H]([C@H](O8)CO)O)O)O)O)O)O)C | C54H92O23
solvent | water | 500 ml | O | H2O
product | ginsenoside F2 | 136 g | CC(=CCC[C@@](C)([C@H]1CC[C@@]2([C@@H]1[C@@H](C[C@H]3[C@]2(CC[C@@H]4[C@@]3(CC[C@@H](C4(C)C)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O)C)C)O)C)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O)C | C42H72O13
